US09029563B2
Isatin (3.95 g, 26.8 mmol) was added to a round bottom flask equipped with a magnetic stir bar and dissolved in acetonitrile (75 mL). Potassium carbonate (3.95 g, 30 mmol) was added, followed by 4-bromo-1-(bromomethyl)-2-fluorobenzene (7.2 g, 26.8 mmol). The flask was sealed with a septum, and the mixture stirred at room temperature overnight. Volatiles were removed under reduced pressure, and the resulting solid was partitioned between water (250 mL) and dichloromethane (150 mL). The DCM layer was collected, and the water layer was extracted with an additional 2×50 mL DCM. The organic layers were combined, dried over anhydrous magnesium sulfate, and evaporated to afford an orange powder, which was recrystallized from ethanol. 1-(4-Bromo-2-fluorobenzyl)indoline-2,3-dione (500 mg, 1.5 mmol) was added to a flame-dried Schlenck flask and dissolved in THF (15 mL). The solution was cooled to −78° C., and a 1.4 M solution of methylmagnesium bromide (2.14 mL, 3 mmol) in THF was added dropwise. The mixture was removed from the dry ice bath, and allowed to stir at room temperature for 1 h. The reaction was quenched by addition of excess water, and the mixture was extracted with 3×50 mL dichloromethane. The organic layers were combined, dried over magnesium sulfate, and purified by silica gel chromatography (0-50% EtOAc in hexanes gradient) to afford 1-(4-bromo-2-fluorobenzyl)-3-hydroxy-3-methylindolin-2-one as a colorless oil. 1-(4-Bromo-2-fluorobenzyl)-3-hydroxy-3-methylindolin-2-one (65 mg, 0.19 mmol) was added to a microwave vial with stir bar, followed by 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (45 mg, 0.21 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (16 mg, 0.019 mmol), cesium carbonate (124 mg, 0.38 mmol), THF (1 mL) and water (1 mL). The vial was sealed and heated to 160° C. for 10 min under microwave conditions. The organic layer was removed, filtered through Celite®, agitated with silica gel overnight, and then filtered, evaporated and purified by reversed-phase HPLC using 0.1% TFA in water/acetonitrile as a mobile phase to afford the title compound. LCMS: RT=0.67 min, >99% @ 254 nm, >99% @ 215 nm; m/z (M+1)+=352. 1H NMR (400 MHz, DMSO, 6 (ppm)): 8.2 (s, 1H), 7.9 (s, 1H), 7.5 (dd, J=11.8, 1.3 Hz, 1H), 7.4 (d, J=7.2 Hz, 1H), 7.3 (dd, J=8.0, 1.4 Hz, 1H), 7.3-7.2 (m, 2H), 7.0 (t, J=7.4 Hz, 1H), 6.9 (d, J=7.8 Hz, 1H), 4.9 (d, J=16 Hz, 1H), 4.8 (d, J=16 Hz, 1H), 3.8 (s, 3H), 1.4 (s, 3H), HRMS calculated for C20H19N3O2F (M+H)+ m/z: 352.1461, measured: 352.1458.

reactant | Isatin | 26.8 mmol, 3.95 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | Potassium carbonate | 30 mmol, 3.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-(bromomethyl)-2-fluorobenzene | 26.8 mmol, 7.2 g | BrC1=CC(=C(C=C1)CBr)F | C7H5Br2F
reactant | 1-(4-Bromo-2-fluorobenzyl)indoline-2,3-dione | 1.5 mmol, 500 mg | BrC1=CC(=C(CN2C(C(C3=CC=CC=C23)=O)=O)C=C1)F | C15H9BrFNO2
reactant | methylmagnesium bromide | 3 mmol, 2.14 mL | C[Mg]Br
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(4-bromo-2-fluorobenzyl)-3-hydroxy-3-methylindolin-2-one | BrC1=CC(=C(CN2C(C(C3=CC=CC=C23)(C)O)=O)C=C1)F | C16H13BrFNO2
